US05435990
To a suspension of 200 mg (0.35 mmole) of 1-[2-(4-nitrophenyl)ethyl]-1,4,7,10-tetraazacyclododecane-4,7,10-triacetic acid, triethyl ester (prepared by the procedure of Example 19) in 15 ml of water was added 59 μl of NaOH (50% wt/wt, 3 eq). The mixture was stirred at 80° C. for 6 hours. The resulting homogeneous orange solution was then cooled to room temperature and freeze-dried to yield a brown solid which was purified by HPLC (Q-Sepharose™, HPLC System III) using a linear gradient of 0-10% aqueous HOAc over 60 minutes to yield (50%) of the hydrolyzed product 1-[2-(4-nitrophenyl)ethyl]-1,4,7,10-tetraazacyclododecane-4,7,10-triactic acid, and characterized by:

reactant | 1-[2-(4-nitrophenyl)ethyl]-1,4,7,10-tetraazacyclododecane-4,7,10-triacetic acid, triethyl ester | 0.35 mmole, 200 mg | [N+](=O)([O-])C1=CC=C(C=C1)CCN1CCN(CCN(CCN(CC1)CC(=O)OCC)CC(=O)OCC)CC(=O)OCC | C28H45N5O8
reactant | NaOH | 59 μl, 3 eq | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | 1-[2-(4-nitrophenyl)ethyl]-1,4,7,10-tetraazacyclododecane-4,7,10-triactic acid | [N+](=O)([O-])C1=CC=C(C=C1)CCN1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O | C22H33N5O8
